US06521666B1
N-(2,6-Dichlorobenzoyl)-4-[2-[N-(tert-butyl)sulfamoyl]phenyl]-L-phenylalanine
N-(2,6-Dichlorobenzoyl)-4-[2-[N-(tert-butyl)sulfamoyl]phenyl]-L-phenylalanine methyl ester (75 mg) was dissolved in THF (5 mL) and to this solution was added a solution of LiOH (monohydrate, 10 mg) in water (0.4 mL). Few drops of MeOH were added and the mixture was stirred at room temperature overnight. The mixture was evaporated, water was added to the residue and the mixture was acidified with 10% citric acid. The separated solid was collected by filtration, washed with water and dried to give 60 mg of the title compound. ESMS: m/z 549 (MH+), 547 ((M−H]−).

reactant | N-(2,6-Dichlorobenzoyl)-4-[2-[N-(tert-butyl)sulfamoyl]phenyl]-L-phenylalanine methyl ester | 75 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(NC(C)(C)C)(=O)=O)=O | C27H28Cl2N2O5S
reactant | LiOH | 10 mg | [Li+].[OH-]
reactant | MeOH | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 0.4 mL | O | H2O
product | N-(2,6-Dichlorobenzoyl)-4-[2-[N-(tert-butyl)sulfamoyl]phenyl]-L-phenylalanine | 60 mg | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(C=CC=C2)S(NC(C)(C)C)(=O)=O)C(=O)O)C(=CC=C1)Cl | C26H26Cl2N2O5S
